US07205385B2
A sample of DTPA (1 eq) is added to a solution of acetonitrile (CH3CN, 0.1 M), followed by the addition of triethylamine (NEt3) (5 eq) to provide a cloudy solution that is then degassed for 20 minutes before stirring at 55° C. for 1 hour. The resulting clear colorless solution is then cooled to −45° C., followed by the dropwise addition of isobutylchlorofomate (IBCF) (1.1 eq) and stirring for 1 hour at −45° C., resulting in a white slurry. The slurry is then added to a CH3CN solution of 9-BBN-lysine, 3, (1 eq), and the reaction mixture is stirred at ambient temperature for 12 hours. The volatiles are removed under reduced pressure and the residue recrystallized from THF/diethyl ether (Et2O) to provide the 9-BBN-lysine-DTPA, 4, product as a white solid.

reactant | DTPA | 1 eq | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
reactant | triethylamine | 5 eq | C(C)N(CC)CC | C6H15N
reactant | 9-BBN lysine | B1C2CCCC1CCC2.N[C@@H](CCCCN)C(=O)O
solvent | CH3CN | CC#N | C2H3N
solvent | acetonitrile | 0.1 M | C(C)#N | C2H3N
product | 9-BBN lysine DTPA | B1C2CCCC1CCC2.N[C@@H](CCCCN)C(=O)O.C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | InChI=1S/C14H23N3O10.C8H15B.C6H14N2O2/c18-10(19)5-15(1-3-16(6-11(20)21)7-12(22)23)2-4-17(8-13(24)25)9-14(26)27;1-3-7-5-2-6-8(4-1)9-7;7-4-2-1-3-5(8)6(9)10/h1-9H2,(H,18,19)(H,20,21)(H,22,23)(H,24,25)(H,26,27);7-9H,1-6H2;5H,1-4,7-8H2,(H,9,10)/t;;5-/m..0/s1
